US05387585
5. By reacting ethyl 5,6-dihydro-6-thioxo4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepine-3-carboxylate with aminoacetaldehyde dimethyl acetal in an analogous manner to that described in Example 5 there is obtained ethyl 6-[(2,2-dimethoxyethyl)amino]-4H-imidazo[1,5-a]thieno[2,3-f][1,4]-diazepine-3-carboxylate of m.p. 134° C.

reactant | ethyl 5,6-dihydro-6-thioxo4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepine-3-carboxylate | S=C1NCC=2N(C3=C1SC=C3)C=NC2C(=O)OCC | C12H11N3O2S2
reactant | aminoacetaldehyde dimethyl acetal | COC(CN)OC | C4H11NO2
product | ethyl 6-[(2,2-dimethoxyethyl)amino]-4H-imidazo[1,5-a]thieno[2,3-f][1,4]-diazepine-3-carboxylate | COC(CNC1=NCC=2N(C3=C1SC=C3)C=NC2C(=O)OCC)OC | C16H20N4O4S
